US05260297
Using the procedure described in example 19 but starting with 3-{2-[4-(4-fluorophenyl)-1-piperazinyl]ethyl}-2-trifluoroacetylimino-6-trifluoromethylbenzothiazoline (3.5 g), a 7% strength aqueous alcoholic solution (15 cc) of potassium carbonate and methanol (150 cc). 2-imino-3-{2-[4-(4-fluorophenyl)-1-piperazinyl]ethyl}-6-trifluoromethylbenzothiazoline (2.2 g) m.p. 250° C. is obtained.

reactant | 3-{2-[4-(4-fluorophenyl)-1-piperazinyl]ethyl}-2-trifluoroacetylimino-6-trifluoromethylbenzothiazoline | 3.5 g | FC1=CC=C(C=C1)N1CCN(CC1)CCN1C(SC2=C1C=CC(=C2)C(F)(F)F)=NC(C(F)(F)F)=O | C22H19F7N4OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 150 cc | CO | CH4O
product | 2-imino-3-{2-[4-(4-fluorophenyl)-1-piperazinyl]ethyl}-6-trifluoromethylbenzothiazoline | 2.2 g | N=C1SC2=C(N1CCN1CCN(CC1)C1=CC=C(C=C1)F)C=CC(=C2)C(F)(F)F | C20H20F4N4S
